US04902794
In the manner given in Example 11, a solution of 1,3-dihydro-7-nitro-5-(o-chlorophenyl)-2H-1,4-benzodiazepine-2-thione and hydroxyacetic acid hydrazide in n-butylalcohol was refluxed to give 8-nitro-1-(hydroxymethyl)-6-(o-chlorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine.

reactant | 1,3-dihydro-7-nitro-5-(o-chlorophenyl)-2H-1,4-benzodiazepine-2-thione | [N+](=O)([O-])C=1C=CC2=C(C(=NCC(N2)=S)C2=C(C=CC=C2)Cl)C1 | C15H10ClN3O2S
reactant | hydroxyacetic acid hydrazide | OCC(=O)NN | C2H6N2O2
solvent | n-butylalcohol | C(CCC)O | C4H10O
product | 8-nitro-1-(hydroxymethyl)-6-(o-chlorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine | [N+](=O)([O-])C=1C=CC2=C(C(=NCC=3N2C(=NN3)CO)C3=C(C=CC=C3)Cl)C1 | C17H12ClN5O3
